datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:61]#[N:10]>>C[C:61]#[N+:10][CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10=20;20,21=21"
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.[N:10]1=[CH:11][N-:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([N:10]3[CH:11]=[N:12][C:61]([N+:72](=[O:73])[O-:83])=[CH:62]3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.[C-:10]#[N:61]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]#[N:61])[O:21]C)[CH:35]=[CH:36]1 10=20;20,21=21"
"CC(C)[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC(C)[C:11]1=[O+:12]C(C)C(C)[O:62]1.C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[NH:10]CCO1.CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([NH+:10]1CCOCC1)[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C1=CC=C([C:10]([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)([F:20])[C:81]#[N:82])C=C1.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>O=[N+]([O-])C1=CC=C([S:61]([CH:10](Cl)[C:20]2(C3=CC=CC=C3)[S:31]CC[S:41]2)(=[O:62])=[O:72])C=C1 10=20
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10](C1CCCCC1)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[S+:61](C)[O-:10]>>C[C:22]1=[C:21]([CH:20]([O:10][S+:61](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][CH:63]=[C:64]([N:65](C)C)[CH:73]=[CH:72]2)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CCCC[NH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CCCC[NH2+:10][CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:36]=[CH:35]1 10=20;20,21=21"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C[Si:63](C)(C)[O+:12]=[C:11]1[CH:10]([CH:20](C#N)[CH:21]=[C:22]=[N-:23])CC[O:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12]1CCC[N:62](C)[C:11]1=[CH2:10].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[N+:12]1=[C:11]([CH2:10][CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[N:62](C)CCC1 10,11=10,20;12=11,12"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]1>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>CC[O:62][C:11]([CH:10]([C:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12"
